US07268145B2
Sodium hydride (400 mg, 10.0 mmol) and dimethylformamide (30 ml) were added to a previously dried reaction vessel. To the mixture were added 2-(benzimidazole-2-ylthiomethyl)benzoic acid methyl ester (1500 mg, 5.0 mmol) and bromoacetate t-butyl ester (1463 mg, 7.5 mmol), and the mixture was stirred at 80° C. for 2 hours. Water was added thereto, followed by extraction with ether. After the ether phase was dried with anhydrous sodium sulfate, it was concentrated, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to obtain 2-(2-((2-(methoxycarbonyl)phenyl)methylthio)benzimidazolyl)acetic acid t-butyl ester (1298 mg, yield 63%).

reactant | Sodium hydride | 10.0 mmol, 400 mg | [H-].[Na+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 2-(benzimidazole-2-ylthiomethyl)benzoic acid methyl ester | 5.0 mmol, 1500 mg | COC(C1=C(C=CC=C1)CSC=1NC2=C(N1)C=CC=C2)=O | C16H14N2O2S
reactant | bromoacetate t-butyl ester | 7.5 mmol, 1463 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | Water | O | H2O
product | 2-(2-((2-(methoxycarbonyl)phenyl)methylthio)benzimidazolyl)acetic acid t-butyl ester | 1298 mg, yield 63% | C(C)(C)(C)OC(CC1=CC=CC=2N=C(NC21)SCC2=C(C=CC=C2)C(=O)OC)=O | C22H24N2O4S
